US06545049B1
A 200-mL round bottom flask was flame dried under nitrogen and charged with sodium metal (3.2 g, 140 mmol). A solution of 1-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)ethanone (15 g, 61.0 mmol) in ethyl formate (350 mL) was added dropwise over 1 h. The resulting yellow solution was stirred at 35° C. for 4 h. The mixture was cooled to 25° C. solution, diluted with 1N HCl (20 mL) and extracted with ether. The extracts were washed with water, brine, and dried over MgSO4. The extracts were concentrated under vacuum to give 2-hydroxy-6,6,9,9-tetramethyl-2,3,6,7,8,9-hexahydrobenzo[g]chromen-4-one: 1H NMR (400 MHz, CDCl3) δ 7.85 (s, 1H, ArH), 6.9 (s, 1H, ArH), 5,85 (t, 1H, CH), 3.32 (br s, 1H, OH), 2.9 (dd, 2H, CH2), 1.67 (s, 4H, 2CH2), 1.27 (s, 12H, 4CH3).

reactant | sodium | 140 mmol, 3.2 g | [Na] | Na
reactant | 1-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)ethanone | 61.0 mmol, 15 g | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C16H22O2
reactant | ethyl formate | 350 mL | C(=O)OCC | C3H6O2
solvent | HCl | 1N, 20 mL | Cl | ClH
product | 2-hydroxy-6,6,9,9-tetramethyl-2,3,6,7,8,9-hexahydrobenzo[g]chromen-4-one | OC1OC2=CC3=C(C=C2C(C1)=O)C(CCC3(C)C)(C)C | C17H22O3
